US04532020
In an isobutylmagnesium chloride solution that was prepared by reacting isobutyl chloride (3.74 g, 40 mmol) and magnesium (0.97 g, 40 mmol) in dry ether (40 ml) at 0° C., dichlorobis(π-cyclopentadienyl)titanium (0.22 g, 0.9 mmol) and 1,1,1-trifluoro-4-phenyl-3-butyne-2-ol (2 g, 10 mmol) were slowly added at 0° C. After 4 hour agitation of the mixture at room temperature, solvent was removed under heating for 30 min. Next, dry tetrahydrofuran (20 ml) was put into the reaction vessel and further methyl iodide (12.7 g, 90 mmol) was slowly added. After 12 hour agitation, the reaction mixture was treated by a method similar to the one in the above Examples to obtain (Z)-1,1,1-trifluoro-4-phenyl-3-pentene-2-ol (b.p.: 84°-86° C./2 mmHg) at a yield of 63%. The above product gave the following analytical data:

reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
reactant | isobutyl chloride | 40 mmol, 3.74 g | C(C(C)C)Cl | C4H9Cl
reactant | magnesium | 40 mmol, 0.97 g | [Mg] | Mg
reactant | 1,1,1-trifluoro-4-phenyl-3-butyne-2-ol | 10 mmol, 2 g | FC(C(C#CC1=CC=CC=C1)O)(F)F | C10H7F3O
reactant | methyl iodide | 90 mmol, 12.7 g | CI | CH3I
solvent | ether | 40 ml | CCOCC | C4H10O
catalyst | dichlorobis(π-cyclopentadienyl)titanium | 0.9 mmol, 0.22 g | [CH-]1[C-]=[C-][C-]=[C-]1.[CH-]1[C-]=[C-][C-]=[C-]1.Cl[Ti]Cl
product | (Z)-1,1,1-trifluoro-4-phenyl-3-pentene-2-ol | yield of 63% | FC(C(\C=C(\C)/C1=CC=CC=C1)O)(F)F | C11H11F3O
